US03952001
To a stirred solution of 89.1 g. phosgene in 500 ml. dry ether at -20°C. was added a solution of 30.9 g. N-ethyl-N-2-methoxyethylamine in 50 ml. dry ether, whilst the temperature of the reaction mixture was maintained at -20°C. The stirred mixture was then allowed to warm to room temperature during 1 hour. The reaction mixture was filtered and the filtrate evaporated in vacuo below 25°C. to remove the solvent and give the product, N-(2-methoxyethyl)-N-ethylcarbamoyl chloride as a pale yellow liquid.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-ethyl-N-2-methoxyethylamine | C(C)NCCOC | C5H13NO
solvent | ether | CCOCC | C4H10O
product | N-(2-methoxyethyl)-N-ethylcarbamoyl chloride | COCCN(C(=O)Cl)CC | C6H12ClNO2
